US06310039B1
N1-(2-Maleinimidoethyloxycarbonyl)-5-fluorouracil
500 mg (3.84 mmol) 5-fluorouracil were dissolved in 100 ml of tetrahydrofuran and diluted with 505 mg (696 μl; 4.99 mmol) of triethylamine. To this solution, 1016 mg (4.99 mmol) of 2-maleinimidoethyl chloroformate, dissolved in 100 ml of tetrahydrofuran, were added drop-wise and the set-up was stirred for 15 h at room temperature. Then, the solvent was removed under the water jet vacuum and the residue purified using column chromatography (LOBAR®-column; running medium: acetic acid/hexane 1.5/1; yield: 61%); melting point: 132° C., Rf-value: 0.64 (diol; acetic acid/hexane 2/1); calculated: C: 44.29% H: 2.68% N: 14.09%, (C11H8N3O6F); found: C: 44.29% H: 2.68% N: 13.58%.

reactant | 5-fluorouracil | 3.84 mmol, 500 mg | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | triethylamine | 4.99 mmol, 696 μl, 505 mg | C(C)N(CC)CC | C6H15N
reactant | 2-maleinimidoethyl chloroformate | 4.99 mmol, 1016 mg | ClC(=O)OCCN1C(C=CC1=O)=O | C7H6ClNO4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N1-(2-Maleinimidoethyloxycarbonyl)-5-fluorouracil | yield: 61% | C1(C=CC(N1CCOC(=O)N1C(=O)NC(=O)C(=C1)F)=O)=O | C11H8FN3O6
